US09233956B2
Step C: N-[3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-methoxyaniline (26.1 g, 64.7 mmol) and 2,6-difluorobenzene-1-sulfonyl chloride (13.8 g, 64.7 mmol) the title compound of Step C was obtained (10.2 g, 27.2% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.23 (d, J=5.5 Hz, 1H), 7.62-7.71 (m, 1H), 7.38-7.45 (m, 1H), 7.15-7.30 (m, 4H), 6.40 (d, J=5.5 Hz, 1H), 3.67-3.78 (m, 4H), 3.50-3.61 (m, 4H), 3.18 (s, 3H). MS (ES+): 580 [M+H]+.

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-methoxyaniline | 64.7 mmol, 26.1 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)OC | C18H18ClN5O2S
reactant | 2,6-difluorobenzene-1-sulfonyl chloride | 64.7 mmol, 13.8 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | N-[3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]-2,6-difluorobenzenesulfonamide | 27.2% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)OC | C24H20ClF2N5O4S2
